US06982338B2
Preparation of Methyl Oxetane Maleimide
Following the addition, the resulting dark brown solution was mixed at room temperature over-night. Thin-layer chromatography (1/1 vol., ethyl acetate/hexane) indicated that the reaction was complete based on the depletion of maleimidocaproic chloride. White solids were filtered from the reaction solution which was then washed four times with distilled water (300 ml each). Methylene chloride was stripped from the reaction solution via roto-evaporation and replaced with an ethyl acetate/hexane solution (2/1, respectively, by volume). The dark brown solution was then passed through a column of silica gel to purify. Next, the solvent was stripped in vacuo resulting in a clear orange product with a viscosity of 750 cPs. The compound had a weight loss of 8% at 200° C. as measured by TGA.

reactant | maleimidocaproic chloride | C1(C=CC(N1C(C(=O)Cl)CCCC)=O)=O | C10H12ClNO3
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | Methyl Oxetane Maleimide | C1(C=CC(N1)=O)=O.CC1OCC1 | InChI=1S/C4H3NO2.C4H8O/c6-3-1-2-4(7)5-3;1-4-2-3-5-4/h1-2H,(H,5,6,7);4H,2-3H2,1H3
